US05294734
15.30 g (52.9 mmol) of 8-(N-benzyloxycarbonylamino)-2-methyleneoctanal and 7.37 ml (67.4 mmol) of isocyanoacetic acid ethyl ester are dissolved in 78 ml of toluene and added dropwise under argon, within a period of 75 minutes, to a suspension of 0.30 g of copper(I) oxide in 76 ml of toluene. The mixture is then stirred for 90 minutes at 30°, cooled to room temperature and filtered, and the clear, bright red filtrate is introduced into a column filled with 250 g of silica gel (particle size 0.04-0.063 mm) and eluted with hexane/ethyl acetate (2:1). Concentration of the suitable fractions by evaporation yields 8.15 g of 5-[8-(N-benzyloxycarbonylamino)oct-1-en-2-yl]-oxazoline-4-carboxylic acid ethyl ester in the form of a colourless honey.

reactant | 8-(N-benzyloxycarbonylamino)-2-methyleneoctanal | 52.9 mmol, 15.30 g | C(C1=CC=CC=C1)OC(=O)NCCCCCCC(C=O)=C | C17H23NO3
reactant | isocyanoacetic acid ethyl ester | 67.4 mmol, 7.37 ml | C(C)OC(C[N+]#[C-])=O | C5H7NO2
solvent | toluene | 78 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 76 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) oxide | 0.30 g | [Cu-]=O
product | 5-[8-(N-benzyloxycarbonylamino)oct-1-en-2-yl]-oxazoline-4-carboxylic acid ethyl ester | 8.15 g | C(C)OC(=O)C1N=COC1C(=C)CCCCCCNC(=O)OCC1=CC=CC=C1 | C22H30N2O5
